Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Codeine / Prochlorperazine / Remicade / Demerol / Morphine / 
Dilaudid
 
Attending: ___.
 
Chief Complaint:
LBP
 
Major Surgical or Invasive Procedure:
___: L1 kyphoplasty

 
History of Present Illness:
Pt p/w 1wk of atraumatic LBP, no radiating sx's.
 
Past Medical History:
-small, subsegmental PE found on ___ hospital stay on CTA
-recent falls
-diagnosis of RA made in ___
-diagnosis of Crohn's made in ___
-pyoderma gangrenosum developed recently at ostomy site being
treated with topical tacrolimus
-asthma
-depression/anxiety
-___: Laparotomy and extensive lysis of adhesions, Excision of
abdominal wall and en bloc resection of abdominal wall and small
intestine, Complex abdominal wall closure, Permanent ileostomy,
Ventral hernia repair with placement of SurgiMend mesh.
-___ - VAC change and debridement
-___ - Wound opening and debridement of devitalized skin and
subcutaneous tissues; Irrigation of the wound; Debridement of
devitalized fascia and removal of some mesh and suture;
placement of VAC.
-s/p multiple abd surgeries (___) ___
procedure and Parks reversal.
-s/p colectomy/ileostomy 
 
Social History:
___
Family History:
Family History: brother has heart disease 
 
Physical Exam:
as per med record
 
Brief Hospital Course:
Pt was admitted on ___ for pain control and an MRI showed an 
acute L1 compression fracture. She had self-held her Coumadin 
prior to presentation, and her INR was therefore 1.2 on 
admission.  She was therefore taken on ___ for kyphoplasty by 
Dr. ___.  She subsequently had an ___ hospital 
course and was d/c'ed after ___ clearance on po pain meds.  
She was also instructed to f/u with her PCP for ___ of her 
medical conditions. 
 
Discharge Medications:
1. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 hours) 
as needed for pain: Do not drive or consume alcohol while taking 
this medication.
Disp:*100 Tablet(s)* Refills:*0*
2. Vitamin A 8,000 unit Capsule Sig: One (1) Capsule PO DAILY 
(Daily): as per PCP.  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 2.5 Tablets 
PO DAILY (Daily): as per PCP.  
4. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
Two (2) Tab Sust.Rel. Particle/Crystal PO DAILY (Daily).  
5. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Ferrous Sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Cyanocobalamin 100 mcg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
8. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Ropinirole 1 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
11. Sertraline 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

12. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for sleep.  
14. Loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed for stoma output > 1000ml.  
15. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).  
16. Promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for n/v.  
17. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
18. Methotrexate Sodium 2.5 mg Tablet Sig: Five (5) Tablet PO 
1X/WEEK (SA).  
19. Prednisolone Acetate 0.12 % Drops, Suspension Sig: Two (2) 
Drop Ophthalmic QID (4 times a day).  
20. Lysine 500 mg Capsule Sig: One (1) Capsule PO BID (2 times a 
day).  
21. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation QID (4 times a day).  
22. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
23. Ketorolac 0.4 % Drops Sig: One (1)  Ophthalmic BID (2 times 
a day).  
24. Gatifloxacin 0.3 % Drops Sig: One (1) drop Ophthalmic QID (4 
times a day).  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
L1 compression fx

 
Discharge Condition:
Stable

 
Discharge Instructions:
-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without moving around.

-Rehabilitation/ Physical Therapy: 
o2-3 times a day you should go for a walk for ___ minutes as 
part of your recovery.  You can walk as much as you can 
tolerate. 
oLimit any kind of lifting.

-Diet: Eat a normal healthy diet. You may have some 
constipation after surgery.  You have been given medication to 
help with this issue.

-You should resume taking your normal home medications.

-You have also been given Additional Medications to control 
your pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.  You can either have them 
mailed to your home or pick them up at the clinic located on 
___.  We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
 In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.

Physical Therapy:
___ be activity as tolerated, no heavy lifting
Treatments Frequency:
Band-aid over wound
 
Followup Instructions:
___